US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-phenylfuran-2-carboxamide)
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) hydrochloride (100 mg), phenylboronic acid (45 mg), tetrakis(triphenylphosphine)palladium(0) (20 mg), cesium carbonate (547 mg), in a mixture of 1,2-dimethoxyethane (6 mL), ethanol (1.5 mL) and water (1 mL) were stirred under reflux under a nitrogen atmosphere for 17 h. The solution was evaporated and the residue was dissolved in chloroform. The solution was washed with aqueous sodium carbonate and the organic layer was then dried (Mg2SO4), filtered, and evaporated. HPLC purification using a gradient of 1:1 ammoniated methanol in chloroform, and chloroform gave the title compound as a colourless solid (63 mg); MS (ES+) 297 (MH+).

reactant | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) hydrochloride | 100 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)Br
reactant | phenylboronic acid | 45 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 547 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 6 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-phenylfuran-2-carboxamide) | 63 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=CC=C2 | C18H20N2O2
